US04053596
D. 4,7-Dihydro-1-(3-piperidinopropyl)-2-indanol
The crude 1-(3-piperidinopropyl)-2-indanol (~ 0.2 M) is dissolved in 300 ml ether and added to 2 liters liquid ammonia. Lithium ribbon (50 g) is added in small portions over a period of 30 minutes. After stirring 11/2 hours, absolute ethanol is added dropwise until the color is discharged (~ 1 liter added over a period of 4 hours). The ammonia is allowed to evaporate and the residue is then diluted to 4 liters with water; two ether extracts yield 62 g of crude diene which becomes partially crystalline on standing.

reactant | 1-(3-piperidinopropyl)-2-indanol | ~ 0.2 M | N1(CCCCC1)CCCC1C(CC2=CC=CC=C12)O | C17H25NO
reactant | ammonia | N | H3N
reactant | Lithium | [Li] | Li
reactant | ethanol | C(C)O | C2H6O
solvent | ether | 300 ml | CCOCC | C4H10O
product | 4,7-Dihydro-1-(3-piperidinopropyl)-2-indanol | N1(CCCCC1)CCCC1C(CC=2CC=CCC12)O | C17H27NO
